US04410730
To a solution of boron trichloride (4.5 g) in methylene chloride (3 ml), a solution of diphenylamine (6.5 g) in methylene chloride (12 ml) is added with cooling at -70° C., and the resultant mixture is stirred for 1 hour. The precipitated crystals are filtered at room temperature, washed with benzene, mixed with benzene (10 ml), and refluxed for 20 hours. After cooling, the reaction mixture is filtered to remove the insoluble material and evaporated under reduced pressure to remove the solvent. The residue is distilled under reduced pressure to give diphenylaminoborane dichloride (1.34 g) as an oil boiling at 117° to 120° C./0.9 mm Hg. M.P. 65°-69° C. [Gerrard, et al., J. Chem. Soc., 5168 (1960)].

reactant | boron trichloride | 4.5 g | B(Cl)(Cl)Cl | BCl3
reactant | diphenylamine | 6.5 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | diphenylaminoborane dichloride | 1.34 g | [Cl-].[Cl-].C1(=CC=CC=C1)N(C1=CC=CC=C1)B | InChI=1S/C12H12BN.2ClH/c13-14(11-7-3-1-4-8-11)12-9-5-2-6-10-12;;/h1-10H,13H2;2*1H/p-2
